US06951868B2
To a stirred solution of ethyl 4-(allyloxy)-3-vinylbenzoate (1.8 g, 7.7 mmol) in CH2Ci2 (40 mL) at rt is added benzylidene-bis(tricyclohexylphosphine)dichlororuthenium (127 mg, 0.15 mmol). The mixture is stirred at rt for 2.5 h. The reaction mixture is concentrated in vacuo to a dark residue. The crude product is purified by flash chromatography on SiO2. Elution with hexanes-EtOAc (95:5) gives 1.3 g (80%) of ethyl 2H-chromene-6-carboxylate as a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.8, 7.7, 6.8, 6.4, 5.8, 4.9, 4.4, 1.4.

reactant | ethyl 4-(allyloxy)-3-vinylbenzoate | 7.7 mmol, 1.8 g | C(C=C)OC1=C(C=C(C(=O)OCC)C=C1)C=C | C14H16O3
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 0.15 mmol, 127 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | ethyl 2H-chromene-6-carboxylate | 1.3 g, 80% | O1CC=CC2=CC(=CC=C12)C(=O)OCC | C12H12O3
